US07696223B2
a) 2-Methyl-1-phenethyl-1H-pyrrole-3-carboxylic acid ethyl ester
To an ice/water bath cooled solution of 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (11.43 g) and (2-bromo-ethyl)-benzene (20.20 mL) in DMF (100 mL) was carefully added NaH (3.88 g, 60% suspension in mineral oil). The mixture was subsequently stirred at room temperature overnight, and cooled with ice/water bath again, another 20.20 mL of (2-brom-ethyl)-benzene and 3.88 of NaH were added to the reaction, which was allowed to stir for another 5 h; then the mixture was quenched by pouring into a mixture of ammonium chloride and ice/water, extracted with EtOAc; EtOAc phase was washed with water twice, saturated NaCl solution (once) and then dried over anhydrous sodium sulfate, filtered, concentrated; the residue was purified with silica column to give the desired title product (3.30 g) with recovered starting pyrrole (6.31 g). The title compound, ESI MS (m/z): 258 (M+H)+.

reactant | 2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 11.43 g | C(C)OC(=O)C1=C(NC=C1)C | C8H11NO2
reactant | (2-bromo-ethyl)-benzene | 20.20 mL | BrCCC1=CC=CC=C1 | C8H9Br
reactant | NaH | 3.88 g | [H-].[Na+]
reactant | (2-brom-ethyl)-benzene | 20.20 mL | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-1-phenethyl-1H-pyrrole-3-carboxylic acid ethyl ester | 3.30 g | C(C)OC(=O)C1=C(N(C=C1)CCC1=CC=CC=C1)C | C16H19NO2
